US04172946
In the same reaction vessel as used in Example 1, 15.82 g of pyridine and 7.83 g of trifluoromethyl iodide were mixed. The vessel was airtightly sealed and heated at 180° C. for 24 hours. After the reaction, the reactor was cooled to room temperature. Thereafter, the reaction mixture was removed from the cooled vessel and treated by following the procedure of Example 1. Consequently, there was obtained 1.17 g (19.90% of theoretical value) of trifluoromethyl pyridine. This substance was found to be a 48:41:11 mixture of α, β and γ isomers.

reactant | trifluoromethyl iodide | 7.83 g | FC(F)(F)I | CF3I
reactant | pyridine | 15.82 g | N1=CC=CC=C1 | C5H5N
product | trifluoromethyl pyridine | 1.17 g, 19.90% | FC(F)(F)C1=NC=CC=C1 | C6H4F3N
